US04160845
Preparation of N-(p-chlorophenyl)trichlorovinylsulfonamide
A solution of 7.6 g (0.06 mol) p-chloroaniline and 7.0 g (0.03 mol) trichlorovinylsulfonyl chloride in 150 ml chloroform was heated under reflux for 3 hours. The reaction mixture was then cooled, washed with water, dried over magnesium sulfate and evaporated to give an oily residue. The residue was chromatographed on silica gel. N-(p-chlorophenyl)trichlorovinylsulfonamide, m.p. 73°-76° C., was eluted from the silica gel with 30% ether-70% hexane. Elemental analysis for C8H5Cl4NO2S showed: calculated, %S, 9.99, %Cl 44.2; found, %S, 10.1, %Cl 48.2.

reactant | p-chloroaniline | 0.06 mol, 7.6 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | trichlorovinylsulfonyl chloride | 0.03 mol, 7.0 g | ClC(=C(Cl)Cl)S(=O)(=O)Cl | C2Cl4O2S
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(p-chlorophenyl)trichlorovinylsulfonamide | ClC1=CC=C(C=C1)NS(=O)(=O)C(=C(Cl)Cl)Cl | C8H5Cl4NO2S
